US05053422
A) Methyl 4-oxo-2-imidazolidinepentanoate
Glycinamide hydrochloride (6.73 g, 0.061 mol) and methyl 6-oxohexanoate (8.8 ml, 0.061 mol) were reacted together according to the procedure of example 2, to give 0.93 (7.6%) of the title compound, m.p. 58°-60° C. (with decomposition). NMR (DMSO-d6): deltaH =8.10 (b.s., 1H, CONH); 4.50-4.15 (c.a., 1H, NHCHNH); 3.55 (s, 3H, COOCH3); 3.20 b.s., 1H, CH2NHCH); 3.05 (s, 2H, NHCH2CO); 2.45-2.10 (c.a., 2H, CH2COO); 1.80-1.10 (c.a., 6H, CH2CH2CH2CH2COO). MS (E.I., 70 eV, 1.5 mA) m/z=200 (M+), 169 (M--OCH3)+, 85 (C3H5N2O)+.

reactant | Glycinamide hydrochloride | 0.061 mol, 6.73 g | Cl.NCC(=O)N
reactant | methyl 6-oxohexanoate | 0.061 mol, 8.8 ml | O=CCCCCC(=O)OC | C7H12O3
product | Methyl 4-oxo-2-imidazolidinepentanoate | O=C1NC(NC1)CCCCC(=O)OC | C9H16N2O3
